US04590269
To the stirred solution of 2,6-diamino-9-(1,3-di-hydroxy-2-propoxymethyl)purine (650 mg) and stannic chloride (300 μl) in dry acetonitrile (250 ml) was added dropwise over 31/2 hours a solution of phosphoryl chloride (240 μl) in acetonitrile (200 ml). Additional stannic chloride (100 μl) followed by a solution of phosphoryl chloride (240 μl) in acetonitrile (10 ml) was then added to the solution. The reaction mixture was stirred at room temperature overnight and then neutralized with aqueous Na2CO3. The resulting precipitate was removed by filtration. The aqueous phase was evaporated to a reduced volume (100 ml) and applied onto a column of activated charcoal (42 gm). The column was washed with water (900 ml) and then eluted with 5% ammonium hydroxide in 50% aqueous ethanol. The fractions were pooled and evaporated. The solid was crystallized from methanol/n-butanol to give pure cyclic phosphate ester of 2,6-diamino-9-(1,3-dihydroxy-2-propoxymethyl)purine ammonium salt (230 mg), m.p. >300° C. dec.

reactant | 2,6-diamino-9-(1,3-di-hydroxy-2-propoxymethyl)purine | 650 mg | NC1=NC(=C2N=CN(C2=N1)COC(CO)CO)N | C9H14N6O3
reactant | phosphoryl chloride | 240 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphoryl chloride | 240 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,6-diamino-9-(1,3-dihydroxy-2-propoxymethyl)purine ammonium salt | 230 mg | [NH4+].NC1=NC(=C2N=CN(C2=N1)COC(CO)CO)N | InChI=1S/C9H14N6O3.H3N/c10-7-6-8(14-9(11)13-7)15(3-12-6)4-18-5(1-16)2-17;/h3,5,16-17H,1-2,4H2,(H4,10,11,13,14);1H3/p+1
